US07288537B2
A solution of (S)-2-amino-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]-butan-1-ol hydrochloride (1.04 g, 2.82 mmol), (5-Ethyl-[1,3,4]thiadiazol-2-yl)-carbamic acid phenyl ester (0.70 g, 2.82 mmol) and triethylamine (1.6 ml, 11.28 mmol) in DMSO (70 ml) is stirred at ambient temperature for 18 hour, then partitioned between ethylacetate and saturated aqueous sodium bicarbonate solution. The organic phase is washed with brine, dried over MgSO4 and evaporated. The crude product is purified by recrystallisation from hot ethylacetate to afford 1-{(S)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-ethyl-[1,3,4]-thiadiazol-2-yl)-urea. [M+H] 426.18.

reactant | (S)-2-amino-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]-butan-1-ol hydrochloride | 2.82 mmol, 1.04 g | Cl.N[C@H](CO)CCN1CC(C1)OC1=CC=C(C=C1)Cl
reactant | (5-Ethyl-[1,3,4]thiadiazol-2-yl)-carbamic acid phenyl ester | 2.82 mmol, 0.70 g | C1(=CC=CC=C1)OC(NC=1SC(=NN1)CC)=O | C11H11N3O2S
reactant | triethylamine | 11.28 mmol, 1.6 ml | C(C)N(CC)CC | C6H15N
solvent | DMSO | 70 ml | CS(=O)C | C2H6OS
product | 1-{(S)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-ethyl-[1,3,4]-thiadiazol-2-yl)-urea | ClC1=CC=C(OC2CN(C2)CC[C@@H](CO)NC(=O)NC=2SC(=NN2)CC)C=C1 | C18H24ClN5O3S
